US05538988
A solution of (S)-5-cyano-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (5.0 g, 0.017 mol), prepared as in Example 19, in 75 mL of THF was stirred under argon in an ice bath and a solution of LAH in THF (1.0 M, 34.3 mL, 34.3 mmol) was added dropwise over 10 minutes. The mixture was cooled to 0° C., stirred for 30 minutes, allowed to warm to room temperature, and let stand for 1.5 hours. The mixture was cooled to 0° C. and then a sufficient amount of saturated sodium potassium tartrate solution was added such that the mixture could by freely stirred. An additional 30 mL of saturated sodium potassium tartrate solution and 200 mL of 10% methanol in methylene chloride were added, the mixture was stirred for 15 minutes, and then 100-150 mL of water was added. The organic layer was separated and the aqueous phase was extracted twice with 10% methanol in methylene chloride (2×125 mL). The combined extracts were washed with 75 mL of water, dried over magnesium sulfate, and concentrated by evaporation to a residue (5.2 g). Purification by column chromatography on silica gel (elution: 5% methanol/methylene chloride) gave (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (2.92 g, 10.0 mmol).

reactant | (S)-5-cyano-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 0.017 mol, 5.0 g | C(#N)C1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | C14H11F2N3S
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | sodium potassium tartrate | 30 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | methanol | 200 mL | CO | CH4O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 34.3 mmol, 1.0 M, 34.3 mL | C1CCOC1 | C4H8O
solvent | water | 100-150 mL | O | H2O
product | (S)-5-aminomethyl-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 10.0 mmol, 2.92 g | NCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | C14H15F2N3S
